US05468757
Commercially available 4-methyl-3-nitropyridine is condensed with N,N-dimethylformamide diethyl acetal to provide E-4-[2-(N,N-dimethylamino)-1-ethenyl]-3-nitropyridine, which is then subjected to catalytic hydrogenation to give 6-azaindole.

reactant | 4-methyl-3-nitropyridine | CC1=C(C=NC=C1)[N+](=O)[O-] | C6H6N2O2
reactant | N,N-dimethylformamide diethyl acetal | C(C)OC(N(C)C)OCC | C7H17NO2
product | E-4-[2-(N,N-dimethylamino)-1-ethenyl]-3-nitropyridine | CN(C)/C=C/C1=C(C=NC=C1)[N+](=O)[O-] | C9H11N3O2
